US04997846
A solution of 6-cyano-3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-1-benzopyran (15 g) and 4-methoxy-3-pyrrolin-2-one (8.5 g) in dimethylsufoxide (40 ml) was stirred and sodium hydride (80% dispersion in oil, 2.2 g) was added. The mixture was stirred at room temperature for 5 hours. Water (50 ml) was slowly added, and the resulting solution extracted with ethyl acetate (2×50 ml). After drying the organic layer with sodium sulfate the solvent was removed under reduced pressure and the residual oil chromatographed on silica gel (4% methanol in methylene chloride). The product obtained was dissolved in diethylether and precipitated with pentane to afford 4 g of 6-cyano-3,4-dihydro-2,2-dimethyl-trans-3-hydroxy-4-(4-methoxy-2-oxo-3-pyrrolin-1-yl)-2H-1-benzopyran, m.p. 256° C.

reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-1-benzopyran | 15 g | C(#N)C=1C=CC2=C(C3C(C(O2)(C)C)O3)C1 | C12H11NO2
reactant | 4-methoxy-3-pyrrolin-2-one | 8.5 g | COC1=CC(NC1)=O | C5H7NO2
reactant | sodium hydride | 2.2 g | [H-].[Na+]
reactant | Water | 50 ml | O | H2O
solvent | diethylether | C(C)OCC | C4H10O
product | 6-cyano-3,4-dihydro-2,2-dimethyl-trans-3-hydroxy-4-(4-methoxy-2-oxo-3-pyrrolin-1-yl)-2H-1-benzopyran | 4 g | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N2C(C=C(C2)OC)=O)C1 | C17H18N2O4
